US08729102B2
F) N-{(1S)-2-[4-(5-hydroxy-2H-indazol-2-yl)phenoxy]-1-methylethyl}acetamide
To a solution of N-{(1S)-2-[4-(5-methoxy-2H-indazol-2-yl)phenoxy]-1-methylethyl}acetamide (70 mg) in dichloromethane (3 mL) was added dropwise a dichloromethane solution (1.0 M, 0.83 mL) of tribromoborane under ice-cooling, and the mixture was stirred at room temperature for 3 hr. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution under ice-cooling, and the mixture was extracted with ethyl acetate. The separated organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (48 mg).

reactant | N-{(1S)-2-[4-(5-methoxy-2H-indazol-2-yl)phenoxy]-1-methylethyl}acetamide | 70 mg | COC1=CC2=CN(N=C2C=C1)C1=CC=C(OC[C@H](C)NC(C)=O)C=C1 | C19H21N3O3
reactant | tribromoborane | BrB(Br)Br | BBr3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 M, 0.83 mL | ClCCl | CH2Cl2
product | N-{(1S)-2-[4-(5-hydroxy-2H-indazol-2-yl)phenoxy]-1-methylethyl}acetamide | 48 mg | OC1=CC2=CN(N=C2C=C1)C1=CC=C(OC[C@H](C)NC(C)=O)C=C1 | C18H19N3O3
